US06465507B2
A mixture of 1-formyl-4-oxo-2,4,6,7-tetrahydro-pyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester (1.2 g, 4.54 mmol) in 50% of trifluoroacetic acid in dichloromethane was stirred at room temperature for 30 minutes. The reaction was concentrated and the residue was recrystallized from dichloromethane to give 400 mg (75%) of 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde.

reactant | 1-formyl-4-oxo-2,4,6,7-tetrahydro-pyrrolo[3,4-c]pyridine-5-carboxylic acid tert-butyl ester | 4.54 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C(C=2C(CC1)=C(NC2)C=O)=O | C13H16N2O4
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 400 mg, 75% | O=C1NCCC=2C1=CNC2C=O | C8H8N2O2
